datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1=[O:21]>>Cl[C:31]1=[C:32](Cl)[C:33](=[O:34])[C:42](Cl)=[C:41](Cl)[C:20]1([N:10]1CC[N+:12]2=[C:11]1[S:62]C1=C2C=CC=C1)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CC1C(C)[O:62][CH:11]([H:10])[O:12]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>CC1C(C)[O:62][CH:11]=[O+:12]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1([H:10])[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CSC[C:20](C)=[O:21].C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CSC[C:20](C)([H:10])[O-:21].C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]([CH:21]=[CH:22][N:23]2C3=C(C=CC=C3)CC2C(=O)[O-])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[CH:62]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.CC[O:62]/[C:11](=[C:10](\F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])[O-:12]>>CC[O:62][C:11]([C:10](F)([C:20]([N-:21]C1=CC=CC=C1)=[N:31]C1=CC=CC=C1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C:11](C)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>C[C:20]1([CH:10]([C:11](C2=CC=C(Br)C=C2)=[O:12])[S+:61](C)C)CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>O=[N+]([O-])[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-:21]23([P+](OC4=CC=CC=C4)(OC4=CC=CC=C4)OC4=CC=CC=C4)C(C4=CC=CC=C4)C2[CH2:20]3)C=C1.C1CC[N:12]([N:11]=[CH2:10])C1>>C1=CC=C(O[P+](OC2=CC=CC=C2)(OC2=CC=CC=C2)[Pd-2:21]2([P+](OC3=CC=CC=C3)(OC3=CC=CC=C3)OC3=CC=CC=C3)C(C3=CC=CC=C3)C2[CH2:20][CH2:10][N:11]=[N+:12]2CCCC2)C=C1 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N+:10]1=[N:61][NH:62][C:72]2=[C:71]1C=CC=C2 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[Si:63](C)(C)[CH:62]1CC[CH:10]=[CH:11]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CC[CH:62]([Si:63](C)(C)C)[CH+:11]2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;20,21=21"
"ClC[N+]12CC[N+:21]([F:20])(CC1)CC2.FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>ClC[N+]12CC[N:21](CC1)CC2.FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F.[H:10][F:20] 10,11=10,20;20,21=21"
Br[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1>>Br[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2CN2C=C(C3=CC=CC=C3)N=N2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Br)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]3=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C.C[C:11]1([H:10])[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)C1(C)C.C[C+:11]1[CH:62]=[C:63](C)[CH2:64][C:73](C)=[CH:72]1 10,11=10,20;20,21=21,22;22,23=23"
CC1=C[C:71]2=[C:72](C=C1)[NH:62][CH:61]=[N:10]2.CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][NH:62][C:72]3=[C:71]2C=C(C)C=C3)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
